US05972951
A stirred suspension of powdered 1-acetyl-6-bromo-2,3-dihydro-1H-indol-5-ol (Tetrahedron, 1973, 29(8), 1115) (19 g, 0.074 mole) in dry THF (1700 ml) at room temp. under argon was treated with triphenylphosphine (19.6 g, 0.075 mole) and 1-methyl-1,2,3,6-tetrahydropyridine-4-methanol (J. Med. Chem., 1988, 31, 545) (9.5 g, 0.075 mole), followed by the dropwise addition over 15 mins. of a solution of diethyl azodicarboxylate (11.8 ml, 0.075 mole) in THF (40 ml). A mild exotherm occured and the insoluble material dissolved. The solution was warmed at 32° C. for 1 hour, then concentrated in vacuo to approx. 500 ml volume. The solid which had formed was filtered off and dried according 16.1 g of beige solid. The filtrate was concentrated in vacuo and the residue treated with ethyl acetate (700 ml) and 1M HCl acid (500 ml), shaken well and the acid layer separated. This was washed with ethyl acetate, then basified with 40% NaOH and extracted with ethyl acetate, followed by chloroform. The combined extracts were dried (Na2SO4) and concentrated in vacuo to leave a yellow solid, which was recrystallised from ethyl acetate (3.8 g) giving a total yield of 19.9 g (74%) of 1-acetyl-6-bromo-2,3-dihydro-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-ylmethoxy)-1H-indole.

reactant | 1-acetyl-6-bromo-2,3-dihydro-1H-indol-5-ol | 0.074 mole, 19 g | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)O | C10H10BrNO2
reactant | triphenylphosphine | 0.075 mole, 19.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methyl-1,2,3,6-tetrahydropyridine-4-methanol | 0.075 mole, 9.5 g | CN1CCC(=CC1)CO | C7H13NO
reactant | diethyl azodicarboxylate | 0.075 mole, 11.8 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 1700 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-acetyl-6-bromo-2,3-dihydro-5-(1-methyl-1,2,3,6-tetrahydropyridin-4-ylmethoxy)-1H-indole | yield of 19.9 g, 74% | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)OCC=1CCN(CC1)C | C17H21BrN2O2
